US05149700
Step 1) Preparation of N-[2[(1-Methyl-1H-benzimidazol-2-yl)amino]ethyl]acetamide
A mixture of 2-methylsulfonyl-1-methyl-1H-benzimidazole (7.0 g, 0.033 mol) and N-acetylethylenediamine (17.0 g, 0.167 mol) was heated at 120°-125° C. for 8 hours. The mixture was cooled, diluted with H2O, made basic (pH8) with 2.5N NaOH, and filtered. The filtrate was extracted with EtOAc, and the combined extracts were washed with brine, dried, and concentrated to give a yellow solid 2.3 g (30%).

reactant | 2-methylsulfonyl-1-methyl-1H-benzimidazole | 0.033 mol, 7.0 g | CS(=O)(=O)C1=NC2=C(N1C)C=CC=C2 | C9H10N2O2S
reactant | N-acetylethylenediamine | 0.167 mol, 17.0 g | C(C)(=O)NCCN | C4H10N2O
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | H2O | O | H2O
product | N-[2[(1-Methyl-1H-benzimidazol-2-yl)amino]ethyl]acetamide | 2.3 g, 30% | CN1C(=NC2=C1C=CC=C2)NCCNC(C)=O | C12H16N4O
